US08859541B2
E4a) tert-butyl-N-[1-oxo-1-[[1-(2-thiophen-3-ylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate
A mixture of tert-butyl-N-[1-[(1-bromoisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate B4a (150 mg, 0.38 mmol), 3-ethynylthiophene (45 mg, 0.42 mmol), copper(I) iodide (7 mg, 0.04 mmol), Dichlorobis(triphenylphosphine)palladium(II) (27 mg, 0.04 mmol) and DIPEA (200 μl, 2 mmol) is stirred under argon atmosphere in NMP (1 ml) for 1 h at 80° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 102 mg (64%). HPLC-MS: M+H=422; tR=1.99 min (*Method—4).

reactant | tert-butyl-N-[1-[(1-bromoisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate | C(C)(C)(C)OC(NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)Br)C)=O | C17H20BrN3O3
reactant | 3-ethynylthiophene | 0.42 mmol, 45 mg | C(#C)C1=CSC=C1 | C6H4S
reactant | DIPEA | 2 mmol, 200 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
catalyst | copper(I) iodide | 0.04 mmol, 7 mg | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.04 mmol, 27 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl-N-[1-oxo-1-[[1-(2-thiophen-3-ylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(NC=1N=C(C2=CC=CC=C2C1)C#CC1=CSC=C1)=O)C)=O | C23H23N3O3S
